US07951961B2
(+)-Methyl 5-oxo-3-(2,4,6-trimethoxyphenyl)pyrrolidine-2-carboxylate
(+)-Dimethyl 5-oxo-3-(2,4,6-trimethoxyphenyl)pyrrolidine-2,4-dicarboxylate (4.0 g, 0.0109 mol) was dissolved in N-methylpyrrolidone (15 mL). Sodium chloride (0.631 g, 0.0109 mol) and water (0.196 mL, 0.0109 mol) were added and the reaction mixture was heated to 170° C. for 5 hours. The reaction mixture was poured on ice (50 g) and the solid was filtered and dried.

reactant | (+)-Dimethyl 5-oxo-3-(2,4,6-trimethoxyphenyl)pyrrolidine-2,4-dicarboxylate | 0.0109 mol, 4.0 g | O=C1C(C(C(N1)C(=O)OC)C1=C(C=C(C=C1OC)OC)OC)C(=O)OC | C17H21NO8
reactant | Sodium chloride | 0.0109 mol, 0.631 g | [Cl-].[Na+]
reactant | water | 0.0109 mol, 0.196 mL | O | H2O
solvent | N-methylpyrrolidone | 15 mL | CN1C(CCC1)=O | C5H9NO
product | (+)-Methyl 5-oxo-3-(2,4,6-trimethoxyphenyl)pyrrolidine-2-carboxylate | O=C1CC(C(N1)C(=O)OC)C1=C(C=C(C=C1OC)OC)OC | C15H19NO6
